US07737269B2
Preparation of an Alpha-Lipoic Acid/Alpha Cyclodextrin Complex
186.7 g of a 45% potassium hydroxide solution (1.498 moles) was added to 3910 g water and mixed at room temperature until clear. 300 g alpha-lipoic acid (99%, 1.439 moles) was added to the potassium hydroxide solution and mixed until clear clear (in case of the presence of amorphous silica as flowing agent the solution will be slightly cloudy). 1,572 g alpha cyclodextrin (at 9.25% water 1.468 moles) was added and stirred for 3 hours at room temperature until no further clarification was seen. 1.498 moles of 37% hydrochloric acid was added to precipitate the complex. With a minimal molar excess of hydrochloric acid in comparison to the potassium hydroxide used, the final pH of the solution was at pH 3. The final aqueous mixture was spray dried immediately at 180° C.

reactant | potassium hydroxide | 1.498 moles | [OH-].[K+]
reactant | alpha-lipoic acid | 1.439 moles, 300 g | C1CSSC1CCCCC(=O)O | C8H14O2S2
reactant | alpha cyclodextrin | 1.468 moles, 1,572 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@H](O2)[C@@H]([C@H]7O)O)CO)CO)CO)CO)CO)O)O)O | C36H60O30
reactant | hydrochloric acid | 1.498 moles | Cl | ClH
solvent | water | 3910 g | O | H2O
product | Alpha-Lipoic Acid Alpha Cyclodextrin | C1CSSC1CCCCC(=O)O.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@H](O2)[C@@H]([C@H]7O)O)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C36H60O30.C8H14O2S2/c37-1-7-25-13(43)19(49)31(55-7)62-26-8(2-38)57-33(21(51)15(26)45)64-28-10(4-40)59-35(23(53)17(28)47)66-30-12(6-42)60-36(24(54)18(30)48)65-29-11(5-41)58-34(22(52)16(29)46)63-27-9(3-39)56-32(61-25)20(50)14(27)44;9-8(10)4-2-1-3-7-5-6-11-12-7/h7-54H,1-6H2;7H,1-6H2,(H,9,10)/t7-,8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-;/m1./s1
